2194-01-09 07:21:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint: Sepsis/Hypotension
   24 Hour Events:
   -Hct 49.4 in PM
   -Still requiring small doses of Neo in PM.
   -Got femoral line and post-pyloric tube in IR
   -Renal recs: no CVVH for now, give bicarb to correct acidosis
   -Contact[**Name (NI) **] ERCP attending [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 9526**] (cell [**Telephone/Fax (1) 9527**]) at
   [**Hospital1 966**] to update, he felt procedure was clean and was wondering about a
   recurrent HD line infection.
   -Surgery recs serial LFTs, pancreatic enzymes and ongoing fluid
   resusciation
   -Aggressive hydration for severe pancreatitis.  Got 4 liters LR, then
   3amps of Bicarb in 1L D5W, then another 3 liters NS. 7+ liter POS by
   midnight.
   --Started Meropenem in place of Zosyn in AM.  Grew GNRs in blood
   cultures from [**Hospital1 1504**] 2/2 bottles.  Started on Gentamycin and
   Linezolid, d/c'd Vancomycin.
   -Hyperglycemic in PM to ~300, sliding scale added
   -Off Neo at 1900, now on Levophed alone
   -K down to 5.5, LFTs / Amylase / Lipase trending down.  Hct down to
   41.5 this AM.  Calcium repleted.
   Allergies:
   Ace Inhibitors
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Cephalosporins
   Unknown;
   Oxycodone
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-1-8**] 06:00 AM
   Meropenem - [**2194-1-8**] 02:54 PM
   Gentamicin - [**2194-1-8**] 09:27 PM
   Linezolid - [**2194-1-8**] 10:08 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 35 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2194-1-8**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2194-1-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-9**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 82 (79 - 107) bpm
   BP: 111/78(89) {89/59(68) - 128/91(100)} mmHg
   RR: 25 (15 - 50) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 74 kg
   Height: 67 Inch
             Total In:
                                                                  8,148 mL
                                                                  1,868 mL
   PO:
             TF:
   IVF:
                                                                  7,728 mL
                                                                  1,868 mL
   Blood products:
   Total out:
                                                                    602 mL
                                                                    150 mL
   Urine:
                                                                      2 mL
   NG:
                                                                    600 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  7,546 mL
                                                                  1,718 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   Vt (Spontaneous): 256 (256 - 256) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/41/140/21/-4 at 6am
   Ve: 8.2 L/min
   PaO2 / FiO2: 350
   Physical Examination
   GENERAL: cushingoid AAF, intubated and sedated
   HEENT: b/l injected conjunctiva, b/l chemosis. No scleral icterus. MM
   lubricated.
   Neck: unable to assess JVP 2/2 habitus. tunneled line in place
   CARDIAC: Regular tachycardia, 2/6 systolic murmur across precordium
   LUNGS: coarse breath sounds, no crackles or wheezes
   ABDOMEN: obese and surgically scarred abdomen. Minimal BS. NABS.
   EXTREMITIES: cool, no edema, dopplerable dorsalis pedis/ posterior
   tibial pulses. RUE old AV fistula without thrill/bruit
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   110 K/uL
   12.6 g/dL
   198 mg/dL
   6.5 mg/dL
   21 mEq/L
   5.5 mEq/L
   46 mg/dL
   106 mEq/L
   140 mEq/L
   41.5 %
   8.3 K/uL
        [image002.jpg]
                            [**2194-1-8**]  04:47 AM
                            [**2194-1-8**]  05:26 AM
                            [**2194-1-8**]  07:00 AM
                            [**2194-1-8**]  09:38 AM
                            [**2194-1-8**]  04:06 PM
                            [**2194-1-8**]  04:55 PM
                            [**2194-1-8**]  11:36 PM
                            [**2194-1-8**]  11:48 PM
                            [**2194-1-9**]  02:29 AM
                            [**2194-1-9**]  05:53 AM
   WBC
   21.4
   11.4
   8.3
   Hct
   51.3
   49.4
   41.5
   Plt
   136
   113
   110
   Cr
   6.6
   6.4
   6.5
   6.5
   TropT
   0.45
   TCO2
   17
   17
   18
   20
   24
   22
   Glucose
   91
   122
   288
   198
   Other labs: PT / PTT / INR:17.2/35.1/1.5, CK / CKMB /
   Troponin-T:/8/0.45, ALT / AST:284/116, Alk Phos / T Bili:194/0.2,
   Amylase / Lipase:82/66, Lactic Acid:2.0 mmol/L, Albumin:3.3 g/dL,
   LDH:217 IU/L, Ca++:6.7 mg/dL, Mg++:1.8 mg/dL, PO4:6.1 mg/dL
   Line placement xray: Successful placement of left groin triple-lumen
   catheter and post-pyloric feeding tube. Both catheters are ready to
   use.
   Blood cx [**1-8**] and [**1-9**] pending
Sputum gram stain: >25 PMNs and <10 epithelial cells/100X field, NO MICROORGANIS
MS SEEN.
   Assessment and Plan
   49F with SLE on chronic steroids, ESRD on HD, ERCP earlier today for
   choledocholithiasis, who presented with sepsis and pancreatitis.
   .
   #. Sepsis - probable biliary source but DDX includes line infection.
   Has h/o multidrug resistant organisms at [**Hospital1 966**].
   -- f/u blood cultures (and those from [**Hospital1 1504**] ER)
   -- continue meropenem/getamicin/linezolid for broad coverage
   -- prn fluid for CVP goal [**9-25**], will check femoral line CVP, will also
   check delta pulse pressure
   -- wean vasopressors for MAP > 65
   -- continue stress dose steroids for now
   -- f/u ERCP c/s recs
   -- f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] c/s recs
   -- will get echo to assess heart function with all these fluids, check
   OSH records for any previous TTe
   .
   #. Resp Failure - Was intubated for airway protection, never dropped
   saturations or demonstrated problems with oxygenation. She has evidence
   of volume overload on CXR, will need aggressive IVF for sepsis and
   pancreatitis management, so this will be a barrier to extubation in the
   future.
   -- wean FiO2 as tolerated, keep on AC for now
   -- ultimately, volume management will be via HD/CVVH
   -- send sputum cultures
   -- fent/midaz for sedation
   .
   #. Pancreatitis s/p ERCP - no evidence of persistent obstruction or
   free air on CT scan. However, pancreatic enzymes are elevated, and HCT
   acutely elevated c/w pancreatitis.
   -- aggressive IVF
   -- NPO with bowel rest for now
   -- pain control with IV fentanyl
   -- trend LFTs and panc enzymes daily
   -- ERCP to follow
   .
   #. ESRD
   -- should be dialyzed today, will touch base with renal team
   -- can likely do hemodialysis but if BP drops, may need CVVH
   -- renally dose all medications
   .
   #. SLE
   -- currently on stress dose steroids, replacing her home dose
   -- continue Plaquenil 200mg daily
   -- continue Bactrim SS daily for prophylaxis
   .
   # h/o PE - on despite ESRD [**3-18**] "coumadin resistence"
   -- holding lovenox for now, will clarify coagulation needs by getting
   OSH records
   ICU Care
   Nutrition: NPO for now given pancreatitis, but prefer early intiation
   of TF's via OGT when possible, will obtain nutrition c/s
   Glycemic Control:  Added ISS yesterday
   Lines:
   Dialysis Catheter - [**2194-1-8**] 05:42 AM
   Arterial Line - [**2194-1-8**] 06:33 AM
   Multi Lumen - [**2194-1-8**] 03:18 PM
   Prophylaxis:
   DVT:  Sc heparin/pneumoboots
   Stress ulcer:
   VAP:
   Comments: Bowel regimen colace/senna
   Communication:  Comments:
   Code status:  Full code
   Disposition: [**Hospital Unit Name 10**]

2194-01-09 11:20:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: septic shock, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off of neosynephrine.
   Remains on levophed.
   Fem line and post-pyloric feeding tube placed in I.R.
   Patient unable to provide history: Sedated
   Allergies:
   Ace Inhibitors
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Cephalosporins
   Unknown;
   Oxycodone
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-1-8**] 06:00 AM
   Meropenem - [**2194-1-8**] 02:54 PM
   Gentamicin - [**2194-1-8**] 09:27 PM
   Linezolid - [**2194-1-9**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 35 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-1-9**] 08:00 AM
   Other medications:
   levophed .05, neo off, versed, fent, methylpred 80, bactrim daily,
   vitamins, reglan, hydroxychloroquine, calcium carbonate, aspirin, CHG,
   bowel reg, PPI, meropenem, SQH, gent after HD, SQI, linezolid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-9**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 82 (79 - 100) bpm
   BP: 103/70(82) {89/59(68) - 128/91(100)} mmHg
   RR: 27 (18 - 50) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 74 kg
   Height: 67 Inch
             Total In:
                                                                  8,148 mL
                                                                  2,737 mL
   PO:
             TF:
   IVF:
                                                                  7,728 mL
                                                                  2,657 mL
   Blood products:
   Total out:
                                                                    602 mL
                                                                    150 mL
   Urine:
                                                                      2 mL
   NG:
                                                                    600 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  7,546 mL
                                                                  2,587 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   Vt (Spontaneous): 256 (256 - 256) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/41/140/21/-4
   Ve: 7.5 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General Appearance: Overweight / Obese, cushingoid
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   12.6 g/dL
   110 K/uL
   198 mg/dL
   6.5 mg/dL
   21 mEq/L
   5.5 mEq/L
   46 mg/dL
   106 mEq/L
   140 mEq/L
   41.5 %
   8.3 K/uL
        [image002.jpg]
                            [**2194-1-8**]  04:47 AM
                            [**2194-1-8**]  05:26 AM
                            [**2194-1-8**]  07:00 AM
                            [**2194-1-8**]  09:38 AM
                            [**2194-1-8**]  04:06 PM
                            [**2194-1-8**]  04:55 PM
                            [**2194-1-8**]  11:36 PM
                            [**2194-1-8**]  11:48 PM
                            [**2194-1-9**]  02:29 AM
                            [**2194-1-9**]  05:53 AM
   WBC
   21.4
   11.4
   8.3
   Hct
   51.3
   49.4
   41.5
   Plt
   136
   113
   110
   Cr
   6.6
   6.4
   6.5
   6.5
   TropT
   0.45
   TCO2
   17
   17
   18
   20
   24
   22
   Glucose
   91
   122
   288
   198
   Other labs: PT / PTT / INR:17.2/35.1/1.5, CK / CKMB /
   Troponin-T:/8/0.45, ALT / AST:284/116, Alk Phos / T Bili:194/0.2,
   Amylase / Lipase:82/66, Lactic Acid:2.0 mmol/L, Albumin:3.3 g/dL,
   LDH:217 IU/L, Ca++:6.7 mg/dL, Mg++:1.8 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   49-year-old woman with septic shock and respiratory failure in the
   setting of a very complex prior medical history (lupus, ESRD, vascular
   stents, etc.) and recent instrumentation of biliary tract.
   Septic shock
          Growing GNR in blood cultures at the [**Hospital1 1504**]
          This puts biliary-related disease higher on the
   differential, although GNRs can also be line pathogens.  Will d/w ERCP.
          Based on prior culture data, she is on linezolid,
   gentamicin, and meropenem while awaiting current culture data
          She has had good response to volume resuscitation, coming
   off of one pressor
          On stress dose steroids given chronic steroid use
          Will transducer femoral CVP and assess pulse pressure
   variation to guide further volume repletion
   Pancreatitis
   Appreciate surgery and ERCP
s help
   Will hold off on tube feeds for today while still on pressor
   Enzymes downtrending
   Respiratory failure, acute
   Continue present support during shock state
   Keep sedation as light as feasible
   Daily SBTs per protocol
   End Stage Renal Disease
   Trial of HD (or CVVHD) per renal
   Will have to consider CVVH as an interim intervention
   SLE
   On plaquenil and steroids
   Bactrim prophylaxis
   Thrombophilia
   Unclear at present what her history is
 reported history of PE and
coumadin resistance
 certainly raises the possibility of
   antiphospholipid syndrome.  Apparently on enoxaparin as outpatient but
   in obese patient on dialysis not completely clear to me about whether
   this represents therapeutic or prophylactic dosing.  Will try to get
   old records today; if unable then will therapeutically anticoagulate
   with heparin
   Complex vascular access
   Multiple upper great vein stents
 femoral line placed by
   interventional radiology under fluoro guidance
   Will also discuss possible transfer to her usual site of care ([**Hospital1 966**]) if
   beds available.
   ICU Care
   Nutrition:
   NPO for now
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2194-1-8**] 05:42 AM
   Arterial Line - [**2194-1-8**] 06:33 AM
   Multi Lumen - [**2194-1-8**] 03:18 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent 45 min:

2194-01-10 07:38:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - off neosynephrine, only on levophed
   - checking daily LFTs and amylase/lipase as is s/p ERCP
   - Echo results [**8-22**] showed hyperdynamic LV, EF >75%, mild LVH, no
   focal wall motion abnormality
   - CVP was 22 based on femoral line
   - [**Hospital1 966**] accepted her for transfer
   - Got CVVH in preparation for transfer and for afternoon K of 6.1,
   decreased to 4.9 after CVVH
   - [**Hospital1 966**] decided they don't have space for her until [**1-10**],  but they did
   tell us that she has antiphospholipid sydrome and she was started on
   heparin gtt
   Allergies:
   Ace Inhibitors
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Cephalosporins
   Unknown;
   Oxycodone
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-1-8**] 06:00 AM
   Meropenem - [**2194-1-9**] 03:43 PM
   Linezolid - [**2194-1-9**] 10:03 PM
   Gentamicin - [**2194-1-10**] 06:31 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-1-9**] 03:42 PM
   Pantoprazole (Protonix) - [**2194-1-9**] 04:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-10**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 75 (62 - 85) bpm
   BP: 107/65(79) {91/54(66) - 117/78(89)} mmHg
   RR: 19 (15 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.4 kg (admission): 74 kg
   Height: 67 Inch
    CVP: 24 (20 - 34)mmHg
   Total In:
                                                                  3,877 mL
                                                                    312 mL
   PO:
   TF:
   IVF:
                                                                  3,737 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                  1,026 mL
                                                                    104 mL
   Urine:
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  2,851 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   Vt (Spontaneous): 153 (153 - 153) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 22 cmH2O
   Plateau: 22 cmH2O
   Compliance: 21.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.32/43/164/24/-3
   Ve: 5.7 L/min
   PaO2 / FiO2: 410
   Physical Examination
   GENERAL: cushingoid AAF, intubated and sedated
   HEENT: b/l injected conjunctiva, b/l chemosis. No scleral icterus. MM
   lubricated.
   Neck: unable to assess JVP 2/2 habitus. tunneled line in place
   CARDIAC: Regular tachycardia, 2/6 systolic murmur across precordium
   LUNGS: coarse breath sounds, no crackles or wheezes
   ABDOMEN: obese and surgically scarred abdomen. Minimal BS. NABS.
   EXTREMITIES: cool, no edema, dopplerable dorsalis pedis/ posterior
   tibial pulses. RUE old AV fistula without thrill/bruit
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   105 K/uL
   12.7 g/dL
   126 mg/dL
   5.0 mg/dL
   24 mEq/L
   4.9 mEq/L
   37 mg/dL
   109 mEq/L
   147 mEq/L
   41.7 %
   8.4 K/uL
        [image002.jpg]
                            [**2194-1-9**]  02:29 AM
                            [**2194-1-9**]  05:53 AM
                            [**2194-1-9**]  12:29 PM
                            [**2194-1-9**]  12:42 PM
                            [**2194-1-9**]  03:19 PM
                            [**2194-1-9**]  05:44 PM
                            [**2194-1-9**]  06:22 PM
                            [**2194-1-10**]  12:00 AM
                            [**2194-1-10**]  12:07 AM
                            [**2194-1-10**]  02:29 AM
   WBC
   8.3
   8.4
   Hct
   41.5
   41.7
   Plt
   110
   105
   Cr
   6.5
   6.7
   5.0
   5.0
   TCO2
   22
   21
   19
   23
   23
   Glucose
   198
   144
   119
   126
   Other labs: PT / PTT / INR:14.7/150.0/1.3, CK / CKMB /
   Troponin-T:/8/0.45, ALT / AST:227/51, Alk Phos / T Bili:162/0.4,
   Amylase / Lipase:53/32, Differential-Neuts:94.2 %, Lymph:3.6 %,
   Mono:2.1 %, Eos:0.1 %, Lactic Acid:2.0 mmol/L, Albumin:3.3 g/dL,
   LDH:212 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:5.9 mg/dL
   Blood cultures 11/25 and [**1-9**] NGTD
   Sputum [**1-8**]
   GRAM STAIN (Final [**2194-1-8**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
      RARE GROWTH Commensal Respiratory Flora.
      YEAST.    SPARSE GROWTH.
   Assessment and Plan
   49F with SLE on chronic steroids, ESRD on HD, ERCP earlier today for
   choledocholithiasis, who presented with sepsis and pancreatitis.
   .
   #. Sepsis - probable biliary source but DDX includes line infection.
   Has h/o multidrug resistant organisms at [**Hospital1 966**].
   -- f/u blood cultures (and those from [**Hospital1 1504**] ER)
   -- continue meropenem/getamicin/linezolid for broad coverage
   -- prn fluid for CVP goal [**9-25**], will check femoral line CVP, will also
   check delta pulse pressure
   -- wean vasopressors for MAP > 65
   -- continue stress dose steroids for now
   -- f/u ERCP c/s recs
   -- f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] c/s recs
   -- will get echo to assess heart function with all these fluids, check
   OSH records for any previous TTe
   .
   #. Resp Failure - Was intubated for airway protection, never dropped
   saturations or demonstrated problems with oxygenation. She has evidence
   of volume overload on CXR, will need aggressive IVF for sepsis and
   pancreatitis management, so this will be a barrier to extubation in the
   future.
   -- wean FiO2 as tolerated, keep on AC for now
   -- ultimately, volume management will be via HD/CVVH
   -- send sputum cultures
   -- fent/midaz for sedation
   .
   #. Pancreatitis s/p ERCP - no evidence of persistent obstruction or
   free air on CT scan. However, pancreatic enzymes are elevated, and HCT
   acutely elevated c/w pancreatitis.
   -- aggressive IVF
   -- NPO with bowel rest for now
   -- pain control with IV fentanyl
   -- trend LFTs and panc enzymes daily
   -- ERCP to follow
   .
   #. ESRD
   -- should be dialyzed today, will touch base with renal team
   -- can likely do hemodialysis but if BP drops, may need CVVH
   -- renally dose all medications
   .
   #. SLE
   -- currently on stress dose steroids, replacing her home dose
   -- continue Plaquenil 200mg daily
   -- continue Bactrim SS daily for prophylaxis
   .
   # h/o PE - on despite ESRD [**3-18**] "coumadin resistence"
   -- holding lovenox for now, will clarify coagulation needs by getting
   OSH records
   ICU Care
   Nutrition: NPO for now given pancreatitis, but prefer early intiation
   of TF's via OGT when possible, will obtain nutrition c/s
   Glycemic Control:  Added ISS
   Lines:
   Dialysis Catheter - [**2194-1-8**] 05:42 AM
   Arterial Line - [**2194-1-8**] 06:33 AM
   Multi Lumen - [**2194-1-8**] 03:18 PM
   Prophylaxis:
   DVT:  Sc heparin/pneumoboots
   Stress ulcer:
   VAP:
   Comments: Bowel regimen colace/senna
   Communication:  Comments:
   Code status:  Full code
   Disposition: [**Hospital Unit Name 10**]

2194-01-10 10:02:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: septic shock, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2194-1-9**] 02:37 PM
   Tolerated CVVHD.
   Transfer delayed to [**Hospital1 966**] due to bed availability.
   Levophed weaned a bit.
   Allergies:
   Ace Inhibitors
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Cephalosporins
   Unknown;
   Oxycodone
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-1-8**] 06:00 AM
   Meropenem - [**2194-1-9**] 03:43 PM
   Linezolid - [**2194-1-9**] 10:03 PM
   Gentamicin - [**2194-1-10**] 06:31 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-1-9**] 03:42 PM
   Pantoprazole (Protonix) - [**2194-1-9**] 04:24 PM
   Other medications:
   norepi, midaz, fent, methylpred @ 80, bactrim daily, vitamins, reglan,
   plaquenil, calcium, asa, CHG, bowel reg, meropenemm, linezolid, PPI, SQ
   insulin, heparin gtt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-10**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 72 (62 - 85) bpm
   BP: 111/67(81) {91/54(66) - 117/72(89)} mmHg
   RR: 16 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.4 kg (admission): 74 kg
   Height: 67 Inch
   CVP: 24 (20 - 34)mmHg
   Total In:
                                                                  3,877 mL
                                                                    377 mL
   PO:
   TF:
   IVF:
                                                                  3,737 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                  1,026 mL
                                                                    104 mL
   Urine:
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  2,851 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 360) mL
   Vt (Spontaneous): 153 (153 - 153) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 16.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.32/43/164/24/-3
   Ve: 7.2 L/min
   PaO2 / FiO2: 410
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam)
   Abdominal: Soft, Non-tender, Obese, fem CVL
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, Tone: Normal
   Labs / Radiology
   12.7 g/dL
   105 K/uL
   126 mg/dL
   5.0 mg/dL
   24 mEq/L
   4.9 mEq/L
   37 mg/dL
   109 mEq/L
   147 mEq/L
   41.7 %
   8.4 K/uL
        [image002.jpg]
                            [**2194-1-9**]  02:29 AM
                            [**2194-1-9**]  05:53 AM
                            [**2194-1-9**]  12:29 PM
                            [**2194-1-9**]  12:42 PM
                            [**2194-1-9**]  03:19 PM
                            [**2194-1-9**]  05:44 PM
                            [**2194-1-9**]  06:22 PM
                            [**2194-1-10**]  12:00 AM
                            [**2194-1-10**]  12:07 AM
                            [**2194-1-10**]  02:29 AM
   WBC
   8.3
   8.4
   Hct
   41.5
   41.7
   Plt
   110
   105
   Cr
   6.5
   6.7
   5.0
   5.0
   TCO2
   22
   21
   19
   23
   23
   Glucose
   198
   144
   119
   126
   Other labs: PT / PTT / INR:14.7/150.0/1.3, CK / CKMB /
   Troponin-T:/8/0.45, ALT / AST:227/51, Alk Phos / T Bili:162/0.4,
   Amylase / Lipase:53/32, Differential-Neuts:94.2 %, Lymph:3.6 %,
   Mono:2.1 %, Eos:0.1 %, Lactic Acid:2.0 mmol/L, Albumin:3.3 g/dL,
   LDH:212 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:5.9 mg/dL
   Imaging: CXR with ?increased left base opacity
   Assessment and Plan
   49-year-old woman with septic shock and respiratory failure in the
   setting of a very complex prior medical history (lupus, ESRD, vascular
   stents, etc.) and recent instrumentation of biliary tract.
   Septic shock
          Growing GNR in blood cultures at the [**Hospital1 1504**]; speciation
   pending.
          This puts biliary-related disease higher on the
   differential, although GNRs can also be line pathogens.
          Based on prior culture data, she is on linezolid,
   gentamicin, and meropenem while awaiting current culture data.  Gent
   level today was 1.5; got re-dosed.
          She has had good response to volume resuscitation, coming
   off of one pressor.  Femoral CVP and low stroke-volume variation (based
   on pulse contour analysis) suggests that she is adequately volume
   replete.
          On stress dose steroids given chronic steroid use
   Pancreatitis
   Appreciate surgery and ERCP
s help
   [**Month (only) 11**] be reasonable to begin post-pyloric feeding today or tomorrow.
   Enzymes downtrending
   Respiratory failure, acute
   Continue present support during shock state
   Keep sedation as light as feasible
   RSBI today suggests she might tolerate an SBT, but given planned
   transfer will defer to [**Hospital1 966**]
   End Stage Renal Disease
   After resolution of shock state, will likely need volume removal.
   HD or CVVHD per renal.  No acute indication right now.
   SLE
   On plaquenil and steroids
   Bactrim prophylaxis
   Antiphospholipid syndrome
   By report.  Now on heparin gtt.
   Complex vascular access
   Multiple upper great vein stents
 femoral line placed by
   interventional radiology under fluoro guidance
   ICU Care
   Nutrition: potential enteral feeding today or tomorrow
   Lines:
   Dialysis Catheter - [**2194-1-8**] 05:42 AM
   Arterial Line - [**2194-1-8**] 06:33 AM
   Multi Lumen - [**2194-1-8**] 03:18 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to [**Hospital1 966**]
   Total time spent: 40 min
   Patient is critically ill